data/pmechdb/original/mc_train_fold0/raw/train.txt
[Li+].CCCCI.CC(C)(C)O[C:11](=[CH:10]C(CCC[CH2:20][I:21])C(C1CCCC1)C(=O)OC(C)(C)C)[O-:12]>>[Li+].CCCCI.CC(C)(C)O[C:11](=[O:12])[CH:10]1[CH2:20]CCCC1C(C2CCCC2)C(=O)OC(C)(C)C.[I-:21] 10,11=10,20;12=11;20,21=21
CC1(OCC(C(O1)C(C2[CH2:20][O:21]2)O)[O-:10])C.CC(C)(C)O>>CC1(OCC2C(O1)C(C([CH2:20][O:10]2)[O-:21])O)C.CC(C)(C)O 10=20;20,21=21
C1=C[C:20]([N-:10]C=C1)(O)[Cl:21]>>C1=C[C:20](=[N:10]C=C1)O.[Cl-:21] 10=20;20,21=21
CC1CCC(C(C1)C=CC(C)(C(C)C)C(=O)O[P:20]([N:21]=[N+]=[N-])([O-:10])(OC2=CC=CC=C2)OC3=CC=CC=C3)C(C)C>>CC1CCC(C(C1)C=CC(C)(C(C)C)C(=O)O[P:20](=[O:10])(OC2=CC=CC=C2)OC3=CC=CC=C3)C(C)C.[N-:21]=[N+]=[N-] 10=20;20,21=21
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]CCN4C(=O)C5=C6C(=CC=C5)C=CC=C6C4=O.[Br-:10].C1CC(=O)NC1=O>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC2=CC=CC3=C2C(=C1)C(=O)N(C3=O)CC[CH2:20][Br:10].C1CC(=O)NC1=O 10=20;20,21=21,22
CCC(=NO[CH:20]([N:10](C)C)[Cl:21])C>>CCC(=NO[CH:20]=[N+:10](C)C)C.[Cl-:21] 10=20;20,21=21
C1CCC(C(C1)O)[OH:10].[O:21]=[P:20](Cl)(Cl)Cl>>C1CCC(C(C1)O)[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
[HH].COC1=CC=C(C=C1)[CH:20]=[O:21].C1CCC(C(C1)C2=CC=CC=C2)O[C:11](=[CH:10]Cl)[O-:12].[Na+]>>[HH].COC1=CC=C(C=C1)[CH:20]([CH:10]([C:11](=[O:12])OC2CCCCC2C3=CC=CC=C3)Cl)[O-:21].[Na+] 10,11=10,20;12=11;20,21=21
[B:20](F)(F)F.CCC[OH:10]>>[B-:20]([OH+:10]CCC)(F)(F)F 10=20,
C[C:20](N)([O-:10])[O:21]C>>C[C:20](=[O:10])N.C[O-:21] 10=20;20,21=21
CO[C:20](=[OH+:21])OC.[NH3:10]>>CO[C:20]([NH3+:10])([OH:21])OC 10=20;20,21=21
[H:20][Br:21].C[C:11]1=[CH:10]CCC1(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCC([C+:11]1C)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21
[H:20][NH+:21]=C(CC=C)OC.[O:10]([Na])Cl.[Cl-]>>[H:20][O+:10]([Na])Cl.COC(=[NH:21])CC=C.[Cl-] 10=20;20,21=21
[H:10][Al-:11](CC(C)C)(CC(C)C)[O+:21]=[C:20]1CCC(O1)CCCCC>>[H:10][C:20]1(CCC(O1)CCCCC)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
[H:20][O:21]C(C)(C)C.C1CC([C:10](=[C:11](C2=CC=CC=C2)[O-:12])C1)C3CCC[P+]3(C4=CC=CC=C4)C5=CC=CC=C5.[K+]>>[H:20][C:10]1(CCCC1C2CCC[P+]2(C3=CC=CC=C3)C4=CC=CC=C4)[C:11](=[O:12])C5=CC=CC=C5.CC(C)(C)[O-:21].[K+] 10,11=10,20;20,21=21;12=11
[H:20][O:21]CC.CC(C)(C1C=CC=C1)[O-:10]>>[H:20][O:10]C(C)(C)C1C=CC=C1.CC[O-:21] 10=20;20,21=21
C1=CC(=C(C=C1)[NH2:10])CC=CCO.[N:20]#[O+:21]>>C1=CC(=C(C=C1)[NH2+:10][N:20]=[O:21])CC=CCO 10=20;20,21=21
C=C[CH2:20][O:21]P(=O)(Cl)Cl.[Cl-:10]>>C=C[CH2:20][Cl:10].[O-:21]P(=O)(Cl)Cl 10=20;20,21=21
C[NH+:21]=[CH:20]N.[OH2:10].[Cl-]>>C[NH:21][CH:20](N)[OH2+:10].[Cl-] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CC(CC(C2OC(=[O:10])C)C3CCCCC3)CC(C)C>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CC(CC(C2O1)C3CCCCC3)CC(C)C 10=20;20,21=21
[H:20][CH:21](C)[C+:22]1CCCC(C1)C.CC[OH:10]>>[H:20][OH+:10]CC.C[CH:21]=[C:22]1CCCC(C1)C 10=20;20,21=21,22
[H:20][O:21]C(=O)C1=CC=C(C=C1)C.C[Si]1(CCC2C(C1)[O:10]2)C>>[H:20][O+:10]1C2C1C[Si](CC2)(C)C.CC1=CC=C(C=C1)C(=O)[O-:21] 10=20;20,21=21
[CH2:10]=[CH:11][O-:12].C1=CC=C(C=C1)[CH:20]=[O:21]>>C1=CC=C(C=C1)[CH:20]([CH2:10][CH:11]=[O:12])[O-:21] 10,11=10,20;20,21=21;12=11
CC(C(=O)OC)[NH:10][C:20]1(CCC2(C3CC4=C5C2(C1OC5=C(C=C4)O)CCN3CC6CC6)O)[OH2+:21]>>CC(C(=O)OC)[NH+:10]=[C:20]1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)O)CCN3CC6CC6)O.[OH2:21] 10=20;20,21=21
[H:20][O+:21]1C(CC(C12CCOCC2)SC3=CC=CC=C3)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].O>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC1CC(C2([O:21]1)CCOCC2)SC3=CC=CC=C3.O 10=20;20,21=21
CCCC[Sn:11](CCCC)(CCCC)([C:10]1(C=CC(=C[CH+:20]1)OC)CN(C)C)I>>CCCC[Sn+:11](CCCC)(CCCC)I.CN(C)C[C:10]1=[CH:20]C=C(C=C1)OC 10,11=10,20
[H:20][CH:21]([CH2:22][O:23]S(=O)(=O)C1=CC=C(C=C1)C)C2=CC=C(C=C2)[N+](=O)[O-].CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:23].[CH2:22]=[CH:21]C1=CC=C(C=C1)[N+](=O)[O-] 10=20;22,23=23;20,21=21,22
CC(=O)C(C)(C)[C:20](C)([O-:10])[Cl:21]>>CC(=O)C(C)(C)[C:20](=[O:10])C.[Cl-:21] 10=20;20,21=21
C[N:21](C=O)[Cl:20].C[Si](C)(C)C[CH:11]=[CH2:10]>>C[N-:21]C=O.C[Si](C)(C)C[CH+:11][CH2:10][Cl:20] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C(CCCNC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C.CC(C=[O:10])NC(=O)OCC1C2=C(C=CC=C2)C3=CC=CC=C13.CC(C)CC(C(=O)OCC1=CC=CC=C1)[N+]#[C-]>>[H:20][O+:10]=CC(C)NC(=O)OCC1C2=C(C=CC=C2)C3=CC=CC=C13.CC(C)(C)OC(=O)NC(CCCNC(=O)OCC1=CC=CC=C1)C(=O)[O-:21].CC(C)CC(C(=O)OCC1=CC=CC=C1)[N+]#[C-] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CC(C)C)CCCCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC(C)C)CCCCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[CH2:20][O:21][C:22]1=[O+:23]C(=CC(N1CC2=CC=CC=C2)C3=CC=CC=C3)C[Si](C)(C)C.CC[O:10][Sn-](Cl)(Cl)(Cl)Cl>>CC[O+:10]([CH2:20]C)[Sn-](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC1=CC(N([C:22](=[O:21])[O:23]1)CC2=CC=CC=C2)C3=CC=CC=C3 10=20;22,23=23;20,21=21,22
CC[Si:20](CC)(CC)OS(=O)(=O)C(F)(F)F.CC1CCC2C13CCC(=C)C(C3)C(=C2)[O-:10].CC[NH+](CC)CC>>CC[Si-:20](CC)(CC)([O:10]C1=CC2CCC(C23CCC(=C)C1C3)C)OS(=O)(=O)C(F)(F)F.CC[NH+](CC)CC 10=20,
[H:20][OH2+:21].CC[N:10](CC)C(C)(O)O>>[H:20][N+:10](CC)(CC)C(C)(O)O.[OH2:21] 10=20;20,21=21
